US04514391
To a vigorously stirred suspension of (S)-3-amino-1-chloro-2-butanone, monohydrochloride (3.0 g., 19.0 mmole) in 150 ml. of tetrahydrofuran at 0°-5° is added, sequentially, benzoyl chloride (2.2 ml., 19.0 mmole), triethylamine (2.65 ml., 19.0 mmole), and sodium bicarbonate (1.6 g., 19.0 mmole). The reaction mixture is stirred for 15 minutes in the cold and then for 2 hours at room temperature. The solvent is evaporated and the residue is partitioned between ethyl acetate (400 ml.) and ice-water (40 ml.). The organic layer is washed with 5% potassium bisulfate (2×30 ml.) and water (3×30 ml.), then dried and evaporated. The resulting crystalline residue is recrystallized from benzene-petroleum ether giving three crops of comparable purity totaling 3.67 g.; m.p. 119.5°-121.5° (first crop), 118°-119.5° (third crop). A portion is recrystallized once more giving an analytically pure sample of (S)-3-(benzoylamino)-1-chloro-2-butanone; m.p. 119.5°-121°.

reactant | (S)-3-amino-1-chloro-2-butanone, monohydrochloride | 19.0 mmole, 3.0 g | Cl.N[C@H](C(CCl)=O)C
reactant | benzoyl chloride | 19.0 mmole, 2.2 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 19.0 mmole, 2.65 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 19.0 mmole, 1.6 g | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (S)-3-(benzoylamino)-1-chloro-2-butanone | C(C1=CC=CC=C1)(=O)N[C@H](C(CCl)=O)C | C11H12ClNO2
